US07432288B2
3-{[4-(Difluoromethoxy)phenyl]amino}-4-phenyl-1-(pyridin-3-ylmethyl)-1H-pyrrole-2,5-dione
4-(Difluoromethoxy)aniline (0.94 mmol, 149 mg) dissolved in dry CH3CN (2.3 mL) was added to crude 3-chloro-4-phenyl-1-(pyridin-3-ylmethyl)-1H-pyrrole-2,5-dione (0.39 mmol, 115 mg) and the reaction mixture was subjected to microwave heating single node 140° C., one h. The reaction mixture was purified using HPLC (57% 0.1M ammonium acetate buffer: 43% CH3CN→100% CH3CN, 20 mL/min) to give 122 mg (75%) of the title compound. 1H NMR (400 MHz, CD3CN) δ 8.63 (d, 1H), 8.51 (dd,1H), 7.92 (bs, 1H), 7.79-7.74 (m, 1H), 7.34 (dd, 1H), 7.20-7.07 (m, 3H), 7.00-6.94 (m, 2H), 6.78 (s, 4H), 6.59 (t, J=74.1 Hz, 1H), 4.76 (s, 2H).

reactant | 4-(Difluoromethoxy)aniline | 0.94 mmol, 149 mg | FC(OC1=CC=C(N)C=C1)F | C7H7F2NO
reactant | 3-chloro-4-phenyl-1-(pyridin-3-ylmethyl)-1H-pyrrole-2,5-dione | 0.39 mmol, 115 mg | ClC=1C(N(C(C1C1=CC=CC=C1)=O)CC=1C=NC=CC1)=O | C16H11ClN2O2
solvent | CH3CN | 2.3 mL | CC#N | C2H3N
product | 3-{[4-(Difluoromethoxy)phenyl]amino}-4-phenyl-1-(pyridin-3-ylmethyl)-1H-pyrrole-2,5-dione | 122 mg, 75% | FC(OC1=CC=C(C=C1)NC=1C(N(C(C1C1=CC=CC=C1)=O)CC=1C=NC=CC1)=O)F | C23H17F2N3O3
